US06294532B1
A suspension of 7-azaoxindole hydrobromide (800 mg, 3.7 mmol), (Tet.Let. 1987, 28, 4027), in methylene chloride (10 ml) was adjusted to pH9 with saturated aqueous sodium hydrogen carbonate solution. The organic layer was separated and the aqueous layer was extracted with methylene chloride. The organic layers were combined, washed with brine, dried (MgSO4) and the volatiles removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5) to give 7-azaoxindole free base (238 mg, 48%).

reactant | 7-azaoxindole hydrobromide | 3.7 mmol, 800 mg | Br.N1C(CC2=CC=CN=C12)=O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 7-azaoxindole | 238 mg, 48% | N1C(CC2=CC=CN=C12)=O | C7H6N2O
